* Subcircuit SN74LS138
.subckt SN74LS138 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
* c:\fossee\esim\library\subcircuitlibrary\sn74ls138\sn74ls138.cir
.include 3_and.sub
.include 4_and.sub
x2 net-_u13-pad2_ net-_u14-pad2_ net-_u15-pad2_ net-_x1-pad4_ net-_u19-pad1_ 4_and
* u19  net-_u19-pad1_ net-_u1-pad7_ d_inverter
x3 net-_u16-pad2_ net-_u14-pad2_ net-_u15-pad2_ net-_x1-pad4_ net-_u20-pad1_ 4_and
* u20  net-_u20-pad1_ net-_u1-pad8_ d_inverter
x4 net-_u13-pad2_ net-_u17-pad2_ net-_u15-pad2_ net-_x1-pad4_ net-_u21-pad1_ 4_and
* u21  net-_u21-pad1_ net-_u1-pad9_ d_inverter
x5 net-_u16-pad2_ net-_u17-pad2_ net-_u15-pad2_ net-_x1-pad4_ net-_u22-pad1_ 4_and
* u22  net-_u22-pad1_ net-_u1-pad10_ d_inverter
x6 net-_u13-pad2_ net-_u14-pad2_ net-_u18-pad2_ net-_x1-pad4_ net-_u23-pad1_ 4_and
* u23  net-_u23-pad1_ net-_u1-pad11_ d_inverter
x7 net-_u14-pad2_ net-_u18-pad2_ net-_u16-pad2_ net-_x1-pad4_ net-_u24-pad1_ 4_and
* u24  net-_u24-pad1_ net-_u1-pad12_ d_inverter
x8 net-_u13-pad2_ net-_u18-pad2_ net-_u17-pad2_ net-_x1-pad4_ net-_u25-pad1_ 4_and
* u25  net-_u25-pad1_ net-_u1-pad13_ d_inverter
x9 net-_x1-pad4_ net-_u17-pad2_ net-_u16-pad2_ net-_u18-pad2_ net-_u26-pad1_ 4_and
* u26  net-_u26-pad1_ net-_u1-pad14_ d_inverter
* u18  net-_u15-pad2_ net-_u18-pad2_ d_inverter
* u17  net-_u14-pad2_ net-_u17-pad2_ d_inverter
* u16  net-_u13-pad2_ net-_u16-pad2_ d_inverter
x1 net-_u10-pad2_ net-_u11-pad2_ net-_u12-pad2_ net-_x1-pad4_ 3_and
* u8  net-_u1-pad1_ net-_u10-pad1_ d_inverter
* u10  net-_u10-pad1_ net-_u10-pad2_ d_inverter
* u11  net-_u1-pad2_ net-_u11-pad2_ d_inverter
* u12  net-_u1-pad3_ net-_u12-pad2_ d_inverter
* u13  net-_u1-pad4_ net-_u13-pad2_ d_inverter
* u14  net-_u1-pad5_ net-_u14-pad2_ d_inverter
* u15  net-_u1-pad6_ net-_u15-pad2_ d_inverter
a1 net-_u19-pad1_ net-_u1-pad7_ u19
a2 net-_u20-pad1_ net-_u1-pad8_ u20
a3 net-_u21-pad1_ net-_u1-pad9_ u21
a4 net-_u22-pad1_ net-_u1-pad10_ u22
a5 net-_u23-pad1_ net-_u1-pad11_ u23
a6 net-_u24-pad1_ net-_u1-pad12_ u24
a7 net-_u25-pad1_ net-_u1-pad13_ u25
a8 net-_u26-pad1_ net-_u1-pad14_ u26
a9 net-_u15-pad2_ net-_u18-pad2_ u18
a10 net-_u14-pad2_ net-_u17-pad2_ u17
a11 net-_u13-pad2_ net-_u16-pad2_ u16
a12 net-_u1-pad1_ net-_u10-pad1_ u8
a13 net-_u10-pad1_ net-_u10-pad2_ u10
a14 net-_u1-pad2_ net-_u11-pad2_ u11
a15 net-_u1-pad3_ net-_u12-pad2_ u12
a16 net-_u1-pad4_ net-_u13-pad2_ u13
a17 net-_u1-pad5_ net-_u14-pad2_ u14
a18 net-_u1-pad6_ net-_u15-pad2_ u15
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74LS138